US04569934
A mixture of 5 g of 3-chloro-6-(3-pyridinyl)pyridazine and 30 ml of 2-amino-1-propanol is heated at 130° C. for 24 hours and the volatiles removed by bulb to bulb distillation under high vacuum to obtain the product 2-[[6-(3-pyridinyl)-3-pyridazinyl]amino]-1-propanol. As for Example 5, the preceding product is reacted with thionyl chloride and the obtained product is ring closed with potassium carbonate in ethanol to give 2,3-dihydro-2-methyl-6-(3-pyridinyl)imidazo[1,2-b]pyridazine which is dehydrogenated with lead tetraacetate to give 2-methyl-6-(3-pyridinyl)imidazo[1,2-b]pyridazine.

reactant | 3-chloro-6-(3-pyridinyl)pyridazine | 5 g | ClC=1N=NC(=CC1)C=1C=NC=CC1 | C9H6ClN3
reactant | 2-amino-1-propanol | 30 ml | NC(CO)C | C3H9NO
product | 2-[[6-(3-pyridinyl)-3-pyridazinyl]amino]-1-propanol | N1=CC(=CC=C1)C1=CC=C(N=N1)NC(CO)C | C12H14N4O
